US05578627
To a solution of 0.40 g of 3-[2-tert-butoxycarbonylamino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole in 10 ml of methylene chloride is added 0.20 g of chlorosulfonyl isocyanate at -30° C., and thereafter, the temperature is gradually elevated to 0° C., after which 5 ml of water is added and they are subjected to reaction at the same temperature for 30 minutes. The solvent is removed by distillation under reduced pressure, water and ethyl acetate are added to the residue obtained, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The oily product obtained is dissolved in 20 ml of methanol and 20 ml of chloroform, and 3.0 ml of a 2-propanol solution (6.5M) of hydrogen chloride is added at room temperature. They are subjected to reaction at the same temperature for 18 hours, after which the solvent is removed by distillation under reduced pressure. 2-Propanol is added to the residue obtained, and after stirring, the crystals precipitated are collected by filtration to obtain 0.3 g of colorless, crystalline 3-[2-amino-2-(3-carbamoyloxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 232.0°-233.5° C.

reactant | 3-[2-tert-butoxycarbonylamino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole | 0.40 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)C2=CC(=CC=C2)O | C20H21ClN2O5
reactant | chlorosulfonyl isocyanate | 0.20 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 5 ml | O | H2O
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 2-propanol | 6.5M, 3.0 ml | CC(C)O | C3H8O
product | 3-[2-amino-2-(3-carbamoyloxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)C2=CC(=CC=C2)OC(N)=O | InChI=1S/C16H14ClN3O4.ClH/c17-10-4-5-14-12(7-10)15(20-24-14)22-8-13(18)9-2-1-3-11(6-9)23-16(19)21;/h1-7,13H,8,18H2,(H2,19,21);1H
